data/pmechdb/original/mc_train_fold0/raw/train.txt
[B-](OC(C(C)CC=CI)C(C)C(=[O+][Si:20](C)(C)C(C)(C)C)C(C)C(C(C)C1C(C(O[Si](O1)(C(C)C)C(C)C)C(C)CO[Si](C)(C)C(C)(C)C)C)O[Si](C)(C)C(C)(C)C)(F)(F)F.CC[O:10]CC>>[B-](OC(C(C)CC=CI)C(C)C(=[O+][Si-:20](C)(C)(C(C)(C)C)[O+:10](CC)CC)C(C)C(C(C)C1C(C(O[Si](O1)(C(C)C)C(C)C)C(C)CO[Si](C)(C)C(C)(C)C)C)O[Si](C)(C)C(C)(C)C)(F)(F)F 10=20,
[H:20][O+:21]1CC(COC1C2=CC(=C(C=C2)OC)Br)(C)C.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CC1(COC([O:21]C1)C2=CC(=C(C=C2)OC)Br)C.[H:20][N+:10]1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
[H:20][NH+:21]1C(C(=O)NC2=C(C1(C)O)C=CC=C2)CC3=CC=CC=C3.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CC1(C2=C(C=CC=C2)NC(=O)C([NH:21]1)CC3=CC=CC=C3)O 10=20;20,21=21
CC(C)(C)[S:20](=[O:21])Cl.C1CC[NH:10]CC1.CCN(CC)CC>>CC(C)(C)[S:20]([NH+:10]1CCCCC1)([O-:21])Cl.CCN(CC)CC 10=20;20,21=21
[H:20][CH:21](C(=O)C)[C:22](=[O:23])OCC.CC[O-:10]>>[H:20][O:10]CC.CCO[C:22](=[CH:21]C(=O)C)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C1=CC=C(C=C1)CBr.CCOC(=O)N[N-:10]C(=O)OCC.CCCCCCC1CCC(C(=O)O1)O[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.C1=CC(=CC=C1CBr)C(=O)[O-:21].CCCCCCC1CCC(C(=O)O1)O[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4 10=20;20,21=21
CC1(CC2=C(C=NN2C3=CC=C(C=C3)F)[C:20](=[O:21])C1=NC4=C(C=CC(=C4)C(=O)C5=CC=CC=C5)[NH2:10])C.CCO.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)N)[NH3+].O.[Cl-]>>CC1(CC2=C(C=NN2C3=CC=C(C=C3)F)[C:20]4(C1=NC5=C([NH2+:10]4)C=CC(=C5)C(=O)C6=CC=CC=C6)[O-:21])C.CCO.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)N)[NH3+].O.[Cl-] 10=20;20,21=21
C[OH+:21][CH:20]([NH2:10])O.[Cl-]>>C[OH:21].[CH:20](=[NH2+:10])O.[Cl-] 10=20;20,21=21
CC(C)[OH+:11][Al-:10](OC(C)C)(OC(C)C)OC(C1CCCCC1)C2CCCCC2.CC(C)[O-]>>CC(C)[OH:11].CC(C)O[Al:10](OC(C)C)OC(C1CCCCC1)C2CCCCC2.CC(C)[O-] 10,11=11
C[C:20]([NH2+:21]C)([OH:10])OC.[Cl-]>>C[C:20](=[OH+:10])OC.C[NH2:21].[Cl-] 10=20;20,21=21
[Li:11][C:10]1=CC=CC=C1.C[C:20](=[O:21])CCC(=O)C1=CC=CC=C1>>[Li+:11].C[C:20](CCC(=O)C1=CC=CC=C1)([C:10]2=CC=CC=C2)[O-:21] 10,11=10,20;20,21=21
[H:20][NH2+:21]CCCC1CCCCC1=O.C1CCC2(C(C1)CCCN2)[OH:10]>>[H:20][OH+:10]C12CCCCC1CCCN2.C1CCC(=O)C(C1)CCC[NH2:21] 10=20;20,21=21
CCOC(=O)C1(C(CCC2(C1CC(=O)C[C:20]2([O-:10])[O:21]CC)C#N)C)C(=O)OCC.CO>>CC[O-:21].CCOC(=O)C1(C(CCC2(C1CC(=O)C[C:20]2=[O:10])C#N)C)C(=O)OCC.CO 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH3:20].C1COCC[NH:10]1>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].[CH3:20][NH+:10]1CCOCC1 10=20;20,21=21
CCC=C[CH+:20]C.[OH2:10]>>CCC=C[CH:20](C)[OH2+:10] 10=20,
CC=C[C:20]([C:21]1=[N+](N=C2N1C3C(CC4=C3C=CC=C4)OC2)C5=C(C(=C(C(=C5F)F)F)F)F)(C(C6=CC=C(C=C6)Br)C(C(=O)C7=CC=CC=C7)C(=O)C8=CC=CC=C8)[O-:10].[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1>>CC=C[C:20](=[O:10])C(C1=CC=C(C=C1)Br)C(C(=O)C2=CC=CC=C2)C(=O)C3=CC=CC=C3.C1C2C(C3=C1C=CC=C3)N4[C-:21]=[N+](N=C4CO2)C5=C(C(=C(C(=C5F)F)F)F)F.[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1 10=20;20,21=21
[H:20][OH:21].CC=CC(C)(C(C=C)C(=O)C)[O-:10]>>[H:20][O:10]C(C)(C=CC)C(C=C)C(=O)C.[OH-:21] 10=20;20,21=21
[CH:11]1=[CH:10]OC=C1C(F)(F)F.O[S+:20](=O)=O>>C1=C([CH+:11][CH:10](O1)[S:20](=O)(=O)O)C(F)(F)F 10,11=10,20
[H:20][OH2+:21].CC1=CCC(O1)(C2=CC=CC=C2)[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]C1(CC=C(O1)C)C2=CC=CC=C2.[OH2:21].OS(=O)(=O)[O-] 10=20;20,21=21
[B-:10]([O+:11](C)C1=C(C=C(C=C1)CCC)C)(Br)(Br)Br>>[B:10](Br)(Br)Br.CCCC1=CC(=C(C=C1)[O:11]C)C 10,11=11
[H:20][O:21]S(=O)(=O)O.CCNC(CCC(=O)C)([O-:10])Cl>>[H:20][O:10]C(CCC(=O)C)(NCC)Cl.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC1CCC([O:10]1)CC[CH:20](C)[O:21]S(=O)(=O)CCl.O>>C(S(=O)(=O)[O-:21])Cl.CC1CCC2[O+:10]1[CH:20](CC2)C.O 10=20;20,21=21
CC(=[O:10])O.C1CCC2=[O+:21][CH2:20]CCC(C1)O2.OS(=O)(=O)[O-]>>CC(=[O+:10][CH2:20]CCC1CCCCC(=[O:21])O1)O.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C=O.C1=NC=NC(=C1Br)CCC(O)[O:10]CCCO.O>>[H:20][O+:10](CCCO)C(CCC1=C(C=NC=N1)Br)O.C(=O)[O-:21].O 10=20;20,21=21
[H:20][N+:21](=NO)C1=CC=CC=C1.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC=C(C=C1)[N:21]=NO 10=20;20,21=21
[H:20][OH2+:21].CCC(=[NH:10])O>>[H:20][NH+:10]=C(CC)O.[OH2:21] 10=20;20,21=21
COC(=O)C1(CC([CH:11]([CH:10]1C2=CC=CC=C2)[N-:20][N+:21]#N)C3=CC=CC=C3)C(=O)OC>>COC(=O)C1(CC([CH+:11][N-:20][CH:10]1C2=CC=CC=C2)C3=CC=CC=C3)C(=O)OC.N#[N:21] 10,11=10,20;20,21=21
CC[SH:10].C[C:20](=[OH+:21])OC(=O)C=C>>CC[SH+:10][C:20](C)([OH:21])OC(=O)C=C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.COC[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]COC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][NH2+:21]O.CC(C)(NO)[OH:10]>>[H:20][OH+:10]C(C)(C)NO.[NH2:21]O 10=20;20,21=21
C[OH:10].C[Si:20](C)(C)Cl>>C[OH+:10][Si-:20](C)(C)(C)Cl 10=20,
C[Si:20](C)(C)Br.[Cl-:10]>>C[Si-:20](C)(C)([Cl:10])Br 10=20,
C(CO[C:20](=[OH+:21])O)[OH:10]>>C1CO[C:20]([OH+:10]1)(O)[OH:21] 10=20;20,21=21
[H:20][NH:21]C(=O)C.[C-:10]#N>>[H:20][C:10]#N.CC(=O)[NH-:21] 10=20;20,21=21
CC(=CCCC(=C[CH2:10][OH2+:11])C)C>>CC(=CCCC(=C[CH2+:10])C)C.[OH2:11] 10,11=11
